Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ M with a history of systolic CHF, s/p MVR on 
coumadin, chronic kidney disease, and dementia who experienced 
the sudden onset of abdominal pain this morning around 9:00 AM 
while at his podiatrist's office.  He was referred to the ED 
where he was noted to have pain out of proportion to exam. He 
underwent CT scan which did not reveal acute cause of his pain. 
While in the ED, he had a bowel movement with a small amount of 
bright red blood, then another with more blood, then a third 
with more blood. He simultaneously became tachycardic to the 
120s though maintained his blood pressure. After administration 
of a dose of IV morphine, his pain resolved.
.  
Upon arrival to the ED vitals were: T 96.8, HR 88, BP 116/64, RR 
16,  100% on RA. He received 4 mg IV morphine for pain and 500 
cc IVF, after which he dropped O2 sat to upper ___ which 
improved with deep breaths to mid-90s. GI team was consulted 
from ED and stated they would consult on patient tomorrow, no 
urgent intervention unless decompensates. His PCP/cardiologist 
Dr. ___ was contacted from the ED and recommended giving FFP 
in the setting of bleed despite his mechanical valve. While in 
the ED, he received 4 mg IV mophine, 500 cc IVF, IV Zofran, 1 
unit FFP (started). He was ordered for a unit of pRBCs but did 
not receive it. Vitals prior to transfer to the MICU were: 
Afebrile, HR 124, BP 122/80, O2 sat 94% on RA.
.
MEDICINE HPI:
In brief, this is a ___ with dementia, chronic systolic CHF with 
an EF of ___, Afib and MVR on warfarin, and dementia who 
presented with BRBPR. He was taken to the ED where he received a 
bolus of NS 500 mL x1 and became more hypoxic. Given his 
abdominal pain and bleeding, a CT scan was done of his abdomen 
and GI and General Surgery were consulted. The CT showed no 
acute abdominal process and severe cardiomegaly with mixing 
artifact in the spleen. Given his comorbidities, borderline BP, 
and risk of bleeding he was admitted to the MICU for further 
management. In the MICU overnight his H/H were stable and he was 
ultimately called out to Medicine for further management. Of 
note, review of notes and history shows that the patient had 
been having severe abdominal pain, but he does not relate that 
history.  
.  
On the floor he is oriented to person only. He denies any pain 
or SOB but is on oxygen. He reports that he is thirsty. He 
cannot fully explain why he is here, but reports "all kinds of 
problems" as leading to his admission.  
.  
Review of Systems:  
(+) Per HPI  
(-) Review of Systems: GEN: No fever, chills, night sweats, 
recent weight loss or gain. HEENT: No headache, sinus 
tenderness, rhinorrhea or congestion. CV: No chest pain or 
tightness, palpitations. PULM: No cough, shortness of breath, or 
wheezing. GI: No nausea, vomiting, + diarrhea. GUI: No dysuria 
or change in bladder habits. MSK: No arthritis, arthralgias, or 
myalgias. DERM: No rashes or skin breakdown. NEURO: No 
numbness/tingling in extremities. PSYCH: No feelings of 
depression or anxiety. All other review of systems negative.  

 
Past Medical History:
- Chronic systolic CHF (last echo in our system LVEF ___ in 
___ EF 15%per last discharge summary ___  
- Dementia  
- Hyperlipidemia  
- Paroxysmal atrial fibrillation  
- Hypertension  
- Diabetes mellitus type II (diet-controlled, not on meds)  
- Multiple prior UTI  
- Multiple prior CVA (last ___  
- S/p MVR ___ on coumadin)  
- S/p left inguinal hernia repair (___)  

 
Social History:
___
Family History:
- Mother had hypertension and diabetes

 
Physical Exam:
MICU admission:
GEN: Resting in bed. Responding to questions appropriately, 
somewhat confused about details of his medical care but states 
that his daughter helps him.
HEENT: Conjunctiva are pink. Swelling of left upper eyelid, not 
botehrsome to patient. Dry mucous membranes.
NECK: JVP not elevated. 
PULM: CTA bilaterally, though somewhat poor cooperation with 
exam
CARD: Tachycardic to 110s, regular, + mechanical MV sounds
ABD: Soft, distended somewhat asymetrically above umbilicus, no 
TTP, + BS, no rebound/guarding
EXT: Trace pedal edema, palpable DP pulses
PSYCH: Appropriate, cooperative as able

Medicine Admission:
VS: T 96.1 P 54 BP 126/52 R 22 945 on 2L NC O2  
GEN: NAD  
HEENT: Dry MM, JVP to 10 cm, neck supple, no cervical, 
supraclavicular, or axillary LAD  
Cards: Irregular, loud S1, low pitched holosystolic murmur II/VI 
at the mid left sternal border, PMI difficult to assess 
?displaced to the anterior axillary line  
Pulm: No dullness to percussion, bibasilar crackles, no wheezes  

Abd: BS+, soft, NT, no rebound/guarding, liver palpable just 
below the costal margin  
Limbs: No ___ edema, no tremors or asterixis  
Skin: No rashes or bruising  
Neuro: CNs II-XII intact. ___ strength diffusely, toes up 
bilaterally, +palmomental but - ___ and ___ frontal 
signs, reflexes diffusely 1+, gait not assessed  

Discharge:
GEN: NAD. on RA  
VS: T 96.2 Tm 98.8 P 70(56-135) BP 114/61 (104-131/61-85) R 21 
94% on RA  
HEENT: MMM, no OP lesions, no LAD, JVP 9cm  
CV: Irregular, II/VI holosystolic murmur, PMI in the axillary 
line  
PULM: CTAB  
ABD: BS+, NTND, no HSM  
LIMBS: no ___ edema, no tremors or asterixis  
NEURO: Grossly nonfocal, A and O x 3  

 
Pertinent Results:
Admission
___ 12:10PM BLOOD ___ PTT-26.3 ___
___ 12:10PM BLOOD Glucose-133* UreaN-34* Creat-1.6* Na-141 
K-5.9* Cl-104 HCO3-22 AnGap-21*
___ 12:10PM BLOOD Albumin-4.7 Calcium-9.2 Phos-4.2 Mg-2.2

Discharge
___ 06:45AM BLOOD WBC-7.5 RBC-4.04* Hgb-12.8* Hct-37.5* 
MCV-93 MCH-31.7 MCHC-34.2 RDW-14.5 Plt Ct-75*
___ 06:45AM BLOOD ___ PTT-27.6 ___
___ 06:45AM BLOOD Glucose-127* UreaN-40* Creat-1.5* Na-146* 
K-3.8 Cl-112* HCO3-22 AnGap-16
___ 06:45AM BLOOD Calcium-8.2* Phos-1.6* Mg-2.1

Cardiac enzymes
___ 12:10PM BLOOD cTropnT-0.09*
___ 03:55PM BLOOD cTropnT-0.09*
___ 08:15PM BLOOD CK-MB-5 cTropnT-0.10*
___ 03:44AM BLOOD CK-MB-4 cTropnT-0.11*
___ 12:10PM BLOOD ALT-20 AST-48* AlkPhos-71 TotBili-0.8
___ 08:15PM BLOOD CK(CPK)-112

Transaminases, amylase, LDH
___ 03:44AM BLOOD LD(___)-307* CK(CPK)-108 Amylase-132*
___ 09:35PM BLOOD ALT-22 AST-31 LD(___)-286* Amylase-111*

TTE (Complete) Done ___ at 4:26:22 ___  The interatrial 
septum is aneurysmal. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity is moderately dilated. 
There is severe global left ventricular hypokinesis (LVEF = 
___ %). Overall left ventricular systolic function is severely 
depressed. Right ventricular chamber size is normal. with normal 
free wall contractility. The aortic valve leaflets are mildly 
thickened (?#). There is no aortic valve stenosis. Mild to 
moderate (___) aortic regurgitation is seen. A mechanical 
mitral valve prosthesis is present. The transmitral gradient is 
normal for this prosthesis. No mitral regurgitation is seen. 
[Due to acoustic shadowing, the severity of mitral regurgitation 
may be significantly UNDERestimated.] Moderate [2+] tricuspid 
regurgitation is seen. There is borderline pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
Compared with the prior study (images reviewed) of ___, 
left ventricular systolic function has declined. The severity of 
aortic regurgitation has increased.  

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 1:51 ___ No 
suspicious pulmonary nodules or pleural effusions are seen in 
the imaged lung bases. There is severe enlargement of the heart, 
predominantly involving the left atrium. The patient is status 
post mitral valvular replacement. There is no pericardial 
effusion. The liver enhances homogeneously, without focal 
lesions. Minimal pneumobilia, especially in the left hepatic 
lobe, relates to prior history of sphincterotomy. Multiple small 
gallstones are present, without evidence for acute 
cholecystitis. The adrenal glands and pancreas are unremarkable. 
The spleen demonstrates multiple peripheral hypoattenuation 
areas, which may be related to early phase of the scan or 
chronic splenic infarcts. There is no perisplenic fluid 
collection. Both kidneys demonstrate mild cortical atrophy. Both 
kidneys enhance and excrete contrast symmetrically, without 
evidence of hydroureteronephrosis or concerning renal masses. 
There is a small hiatal hernia. The stomach, small and large 
bowel are unremarkable, without evidence of bowel wall 
thickening or obstruction. Extensive colonic diverticulosis is 
seen in the descending and sigmoid colon, without evidence of 
acute diverticulitis. There is no intra-abdominal free fluid or 
air. The abdominal aorta is tortuous with moderate 
atherosclerotic calcification, without aneurysmal dilation. 
There is no intra abdominal free fluid or air. CT OF THE PELVIS 
WITH INTRAVENOUS CONTRAST: The urinary bladder is relatively 
empty with a Foley catheter in place. The prostate gland is 
enlarged measuring 6.9 x 6.1 x 6.8 cm. The rectum is 
unremarkable. No significant pelvic lymphadenopathy or free 
fluid is seen. BONES AND SOFT TISSUES: No bone lesions 
suspicious for infection or malignancy are detected. IMPRESSION: 
1. Severe cardiomegaly, especially involving the left atrium. 
The patient is status post mitral valve replacement. 2. No acute 
intraabdominal pathology. 3. Cholelithiasis without evidence of 
acute cholecystitis. 4. Colonic diverticulosis, without evidence 
of acute diverticulitis. 5. Hypodense areas in the spleen, may 
represent early mixing artifact versus splenic infarcts. 
 
Brief Hospital Course:
MEDICINE COURSE:
___ with chronic systolic CHF EF 30% several years ago, Afib and 
MVR on warfarin, and dementia admitted with a hematochezia and 
abdominal pain. It seems likely the hematochezia was due to 
transient mesenteric ischemia which resolved likely from 
improved hemodynamics. Colitis or diverticulosis are also 
possible but less consistent with imaging. Given the patients 
numerous comorbidities and symptomatic improvement, the care 
team and family decided to pursue supportive measures rather 
than invassive procedures to address this issue. He stabilized 
clinically and was DCed to home with 24 hour supervision by his 
family with ___ assistance. 

# Hematochezia: Differential includes bleeding diverticuli on 
warfarin, AVM, UGIB, colitis, and ischemic bowel. Given that he 
has pain and severe CHF, ischemic bowel seems likely. He has 
known diverticuli and a relatively high INR, so this too is a 
possible source of bleeding. UGIB, colitis, and AVM seem less 
likely given his symptomology and labs. GI and General Surgery 
consulted. GI recommended outpatient colonoscopy given the 
clinical scenario. Because of his comorbidities and given his 
H/H was stable on anticoagulation without any loss of blood or 
hematochezia, it seems the bleed has resolved and it was decided 
to proceed with watchful waiting. 

# Abdominal pain: Completely resolved. Could be due to colitis 
or ischemic bowel. No cholelithiasis on CT and AP is WNL. 
Lactate normal but AST moderately elevated to 46 on admission. 
LDH and amylase were elevated to 307 and 132 respectively which 
suggests bowel ischemia, but could be due to many causes. As 
above, given his comorbidities it seems unlikely he could 
tolerate a mesenteric bypass for ischemia or sigmoidectomy for 
diverticulosis. 

# Hypoxia: Received IVF and FFP in the ED and has very dilated 
cardiomyopathy. Improved with diuresis. PE is unlikely given INR 
>3, and ACS was ruled out.  

# Chronic systolic CHF: EF in ___ was 30%. Clinically appears 
to be having some component of acute on chronic systolic CHF. 
ECHO this admission showed worsened EF to ___. Continued home 
Furosemide 40 mg PO ___. Continued home Metoprolol 
Tartrate 50 mg PO/NG BID. 

# s/p MVR: Very high risk for CVA if subtherapeutic INR. Goal 
INR is 2.5 to 3.5.  
.  
# Afib: Continue warfarin as above and rate control as above  
.  
# Troponin leak: On admission had slightly elevated TnT with 
stable low MB. Likely baseline elevation or demand without true 
ischemia. 

# Chronic renal insufficiency: Baseline creatinine 1.4 mg/dL in 
___. Creatinine more or less at baseline at 1.5-1.6 mg/dL as of 
discharge.

DNR DNI

MICU COURSE:
Mr. ___ is an ___ gentleman with a systolic CHF, atrial 
fibrillation, s/p MVR on Coumadin, who presents with a one-day 
history of abdominal pain and then developed BRBPR in ED. 

1. ABDOMINAL PAIN/GIB: Most likely etiology is episode of 
ischemic bowel, less likely infectious invasive entorocolitis. 
Appreciate GI and ACS recs.  CTAP without evidence of colitis. 
No hemodynamic instability during admission with stable 
hematocrits. GI consult on admission with decision to hold off 
on diagnostic or therapeutic interventions.  C.diff toxin ___ 
negative.  

2. TROPONIN ELEVATION: Troponinemia in setting of CKD with flat 
MB. If true elevation, more likely manifestation of demand 
ischemia rather than ACS with plaque rupture. 

3. HYPOXIA: Room air challenge with SaO2 of low ___.  Exam 
without overt evidence of pulmonary edema or volume overload. 
Given cardiomegaly and kyphosis, has element of restrictive 
physiology with V/Q mismatch. CT chest demonstrating 
cardiomegaly.

4. CHRONIC KIDNEY DISEASE: Unknown baseline; most recent 
creatinine range 1.0-1.2 in ___. Prerenal etiology is likely in 
setting of decreased perfusion from GIB.

5. SYSTOLIC CHF: Most recent echocariogram with EF of ___ in 
___, though more recent discharge summary states 15% (___). He 
has significant cardiomegaly on CT abdomen. 

6. ATRIAL FIBRILLATION: Tachycardic to 120s (from ___ on 
arrival). Improved to ___ after 250 mg IV digoxin. Home 
nodal blocklade restarted during admission.

7. MITRAL VALVE REPLACEMENT: Goal INR 2.5-3.5. Receieved 5 mg PO 
vitamin K and FFP. Coumadin and heparin initially.

 
Medications on Admission:
- buspirone 10 mg PO Twice Daily 
- metoprolol tartrate 50 mg Twice Daily 
- doxazosin 4 mg PO Twice Daily
- simvastatin 20 mg PO at bedtime
- warfarin 5 mg Tab Oral 1 Tablet(s) Once Daily on ___ and 
___   
- warfarin 5 mg Tab Oral 0.5 Tablet(s) Once Daily on 
___   
- furosemide 40 mg Tab Oral once every other day - 
___

 
Discharge Medications:
1. buspirone 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
3. doxazosin 4 mg Tablet Sig: One (1) Tablet PO twice a day.  
4. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
5. Lasix 40 mg Tablet Sig: One (1) Tablet PO every other day.  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. warfarin 5 mg Tablet Sig: One (1) Tablet PO ___.  
8. warfarin 5 mg Tablet Sig: 0.5 Tablet PO ___.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Ischemic colitis v diverticulosis as a cause of GI bleeding
- Chronic systolic CHF (EF ___ this admission), ___ III to 
IV

Secondary
- Dementia  
- Hyperlipidemia  
- Paroxysmal atrial fibrillation  
- Hypertension  
- Diabetes mellitus type II (diet-controlled, not on meds)  
- Multiple prior UTI  
- Multiple prior CVA 
- S/p MVR ___ on coumadin)  
- S/p left inguinal hernia repair (___)  
- Aortic insufficiency
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___. 

You were admitted for abdominal pain and bleeding in your gut. 
It is likely that this was caused by either low blood flow in 
your intestines, a diverticuli (a common defect in the wall of 
the colon which is prone to bleeding), or inflammation in the 
intestine. We did tests for infectious causes of your symptoms, 
and these were negative. Ultimately, you improved clinically 
with supportive care. 

We have not made any changes to your home medications. 
 
Followup Instructions:
___